US09193741B2
Synthesis of 1-(4-(5-amino-2-(4-fluorophenyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone
To a solution of 2-(4-fluorophenyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine (40 mg, 0.12 mmol) and pyridine (15 μl, 0.18 mmol) in DMF (1 ml) was added 4-chlorophenoxyacetyl chloride (27 mg, 0.13 mmol). The reaction mixture was stirred for 2 hours at room temperature. The reaction mixture was quenched with water, extracted with EtOAc, brine and was dried over Na2SO4. After removing the solvents, the crude residue was purified by flash chromatography on silica (CH2Cl2/MeOH 100:1) to yield the title compound as a white solid (32 mg, 53%).

reactant | 2-(4-fluorophenyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine | 0.12 mmol, 40 mg | FC1=CC=C(C=C1)C=1SC=2N=C(N=C(C2N1)N1CCNCC1)N | C15H15FN6S
reactant | pyridine | 0.18 mmol, 15 μl | N1=CC=CC=C1 | C5H5N
reactant | 4-chlorophenoxyacetyl chloride | 0.13 mmol, 27 mg | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-(4-(5-amino-2-(4-fluorophenyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone | 32 mg, 53% | NC=1N=C(C2=C(N1)SC(=N2)C2=CC=C(C=C2)F)N2CCN(CC2)C(COC2=CC=C(C=C2)Cl)=O | C23H20ClFN6O2S
